US08835432B2
In a round bottomed flask was combined phthalimide (6.38 g, 43.3 mmol), triphenylphosphine (1.14 g, 43.3 mmol), and (R)-1-(2-chloro-8-fluoroquinolin-3-yl)ethanol (8.15 g, 36.2 mmol) in THF (240 mL). The solution was cooled to 0° C. and diisopropylazodicarboxylate (DIAD, 8.5 mL, 43.3 mmol) was added dropwise. The reaction was allowed to warm to rt overnight. The reaction was concentrated to a volume of ˜100 mL and diluted with 1 L of Et2O and 200 mL of water. The layers were separated and the aqueous layer was back extracted with 200 mL of Et2O. The combined organic layers were washed with 160 mL of brine, dried over MgSO4, filtered, and concentrated. Column chromatography using 100% DCM afforded (S)-2-(1-(2-chloro-8-fluoroquinolin-3-yl)ethyl)-isoindoline-1,3-dione (10.5 g, 82% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.60 (br s, 1H), 7.74 (m, 2H), 7.64 (m, 3H), 7.45 (td, J=7.8, 4.9 Hz, 1H), 7.35 (ddd, J=10.2, 7.8, 1.2 Hz, 1H), 5.89 (q, J=7.2 Hz, 1H), 1.90 (d, J=7.0 Hz, 3H).

reactant | phthalimide | 43.3 mmol, 6.38 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 43.3 mmol, 1.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (R)-1-(2-chloro-8-fluoroquinolin-3-yl)ethanol | 36.2 mmol, 8.15 g | ClC1=NC2=C(C=CC=C2C=C1[C@@H](C)O)F | C11H9ClFNO
reactant | diisopropylazodicarboxylate | 43.3 mmol, 8.5 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 240 mL | C1CCOC1 | C4H8O
product | (S)-2-(1-(2-chloro-8-fluoroquinolin-3-yl)ethyl)-isoindoline-1,3-dione | 10.5 g, 82% yield | ClC1=NC2=C(C=CC=C2C=C1[C@H](C)N1C(C2=CC=CC=C2C1=O)=O)F | C19H12ClFN2O2
